US07893056B2
1-(Phenylmethyl)-L-proline hydrochloride (2.0 g, 8.247 mmol) and HOBt (1.34 g, 9.928 mmol) were dissolved in CH2Cl2 (50 mL), and 4-methylmorpholine (2.72 mL, 24.822 mmol), piperidine (0.981 mL, 9.929 mmol), and EDCI (1.906 g, 9.928 mmol) were added to this solution. After stirring overnight, the solution was washed with water (50 mL), and the aqueous layer was extracted with CH2Cl2 (3×50 mL). The combined organic layers were dried over anhydrous MgSO4 and concentrated in vacuo to provide (2S)-1-(phenylmethyl)-2-(1-pyrrolidinylcarbonyl)piperidine (0.901 g, 40%). LCMS: (M+H)+: 273.1.

reactant | 1-(Phenylmethyl)-L-proline hydrochloride | 8.247 mmol, 2.0 g | Cl.C1(=CC=CC=C1)CN1[C@H](C(=O)O)CCC1
reactant | HOBt | 9.928 mmol, 1.34 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-methylmorpholine | 24.822 mmol, 2.72 mL | CN1CCOCC1 | C5H11NO
reactant | piperidine | 9.929 mmol, 0.981 mL | N1CCCCC1 | C5H11N
reactant | EDCI | 9.928 mmol, 1.906 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (2S)-1-(phenylmethyl)-2-(1-pyrrolidinylcarbonyl)piperidine | 0.901 g, 40% | C1(=CC=CC=C1)CN1[C@@H](CCCC1)C(=O)N1CCCC1 | C17H24N2O
